US04797401
(D) 1-(4-Methanesulphonamidophenyl)-4-(4-methanesulphonamidophenacyl)piperazine
1-(4-Methanesulphonamidophenyl)piperazine hydrochloride (1.18 g), 4-methanesulphonamidophenacyl bromide (1.16 g), [see J. Med. Chem, 9, 88 (1966)], triethylamine (0.82 g), methanol (10 ml) and dichloromethane (10 ml) were warmed briefly to attain homogeneity, then stirred at ambient temperature for 4 hours, evaporated to dryness, the residue triturated and washed with water, and then crystallized from methanol/acetone. The yield of the title compound was 0.88 g, m.p. 222°-5° (dec.).

reactant | 1-(4-Methanesulphonamidophenyl)piperazine hydrochloride | 1.18 g | Cl.CS(=O)(=O)NC1=CC=C(C=C1)N1CCNCC1
reactant | 4-methanesulphonamidophenacyl bromide | 1.16 g | CS(=O)(=O)NC1=CC=C(C(CBr)=O)C=C1 | C9H10BrNO3S
reactant | triethylamine | 0.82 g | C(C)N(CC)CC | C6H15N
reactant | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(4-Methanesulphonamidophenyl)-4-(4-methanesulphonamidophenacyl)piperazine | CS(=O)(=O)NC1=CC=C(C=C1)N1CCN(CC1)CC(=O)C1=CC=C(C=C1)NS(=O)(=O)C | C20H26N4O5S2
